Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Bactrim / ___
 
Attending: ___
 
Chief Complaint:
Rash 
 
Major Surgical or Invasive Procedure:
Biopsy of left abdominal wall

 
History of Present Illness:
___ F with PMHx anxiety and depression, recently treated for 
UTI
with ___ and Bactrim, who presents with flu-like symptoms
and 1 day of pruritic rash over her upper and lower extremities,
chest, and back.

Of note, she was recently treated for UTI, initially with
___ x 7 days, then Bactrim. She says she initially had
dysuria, and her PCP called in ___ x 7 days. She completed
this course with initial improvement, but urgency and dysuria
returned. She was seen at urgent care and started on Bactrim.
Reports UA and urine cultures have otherwise been negative. She
took her last dose of Bactrim yesterday to complete 7 day 
course.

However, over the last 3 days she has had new flu-like symptoms,
including fevers/chills, joint pains, nausea. Tmax 100 at home.
Reports decreased PO intake due to malaise and decreased
appetite. Then on day ___ of Bactrim, she noted onset of
erythematous, mildly pruritic rash over her chest and thighs.
Since then, it has progressed down her legs and arms, now with
"burning" sensation and worsening pruritis.

Otherwise, no sensation of throat closing, SOB, wheezing,
abdominal pain, vomiting, diarrhea, dizziness/LH. No other new
medications. No blistering of rash or mucosal involvement.

In the ED, initial VS were:  T: 100.5, HR: 119, BP: 134/79, RR:
19, 99% RA 

Exam notable for: 
Gen: NAD
HEENT: oropharynx without erythema, exudate, or edema 
CV: RRR; no m/r/g
Resp: CTAB
Abd: Soft; mild discomfort to palpation in left abdomen; ND; no
___ sign; no CVA tenderness
Skin: diffuse, warm, erythematous, coalesced urticarial rash 
over
face, UEs, back, torso, and thighs; no weeping or discharge; no
skin sloughing; no involvement at mucocutaneous borders
LN: no cervical or axillary LAD 

Labs showed:  
- Transaminitis: ALT 136, AST 160
- Thrombocytopenia: Plt 92
- WBC 4.1, HgB 12.0, Hct 35.1
- UA: neg leuks, neg nitrites, mod blood
- Chemistry panel within normal limits

Imaging showed: None
 
Consults:
Dermatology: Favor DRESS/DIHS (drug induced hypersensitivity
reaction) most likely to Bactrim, with associated
thrombocytopenia related to Bactrim. The differential diagnosis
would also include morbilliform drug rash (which can also be
associated with fevers) and less likely, infectious
mononucleosis. Preformed punch biopsy in ED. Plan to admit for
steroids.

Patient received:  N/A

Transfer VS were:  T: 98.8, BP: 109/62, HR: 108, RR: 17, 98% Ra 

On arrival to the floor, patient recounts history as above. She
endorses burning and itching of her rash, diffuse across upper
and lower extremities, chest, and back. She has no 
fevers/chills,
N/V, abdominal pain.   

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY: 
- Anxiety, depression
- IBS
- ADHD
 
Social History:
___
Family History:
Paternal grandmother: CABG, CVA, T2DM
Maternal grandmother: ___ disease
Father: ___
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
VS:  ___ 0042 Temp: 98.8 PO BP: 109/62 R Sitting HR: 108 
RR:
17 O2 sat: 98% O2 delivery: Ra 
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: Confluent erythematous, blanching macules and papules
coalescing into patches over the chest, back, and bilateral 
upper
and lower extremities. No mucosal involvement. No blistering,
sloughing. Otherwise, warm and well perfused.

DISCHARGE PHYSICAL EXAM
GENERAL: NAD, uncomfortable, 
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, painful breathing with
deep inspiration 
GI: abdomen soft, nondistended, tender in all quadrants to light
palpation worst in the RUQ, no rebound/guarding, no
hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: Confluent mildly erythematous, blanching macules and
papules coalescing into patches over the chest, upper and  lower
extremities. Right upper extremity has stable petichie. With
improvement from prior days. No mucosal involvement. No
blistering, sloughing. Otherwise, warm and well perfused.
 
Pertinent Results:
Important Results 
=============

___ 06:17PM BLOOD WBC-4.1 RBC-4.05 Hgb-12.0 Hct-35.1 MCV-87 
MCH-29.6 MCHC-34.2 RDW-13.4 RDWSD-42.5 Plt Ct-92*
___ 06:17PM BLOOD Neuts-52.5 ___ Monos-10.5 Eos-6.6 
Baso-0.2 Im ___ AbsNeut-2.16 AbsLymp-1.22 AbsMono-0.43 
AbsEos-0.27 AbsBaso-0.01
___ 06:17PM BLOOD Plt Smr-LOW* Plt Ct-92*
___ 07:22AM BLOOD ___ PTT-29.1 ___
___ 07:22AM BLOOD Plt ___
___ 06:17PM BLOOD Glucose-84 UreaN-10 Creat-0.8 Na-139 
K-4.3 Cl-103 HCO3-21* AnGap-15
___ 07:22AM BLOOD Glucose-135* UreaN-9 Creat-0.8 Na-139 
K-4.5 Cl-102 HCO3-21* AnGap-16
___ 06:17PM BLOOD ALT-136* AST-160* AlkPhos-82 TotBili-0.3
___ 07:22AM BLOOD ALT-253* AST-244* LD(LDH)-477* AlkPhos-86 
TotBili-0.4
___ 07:40AM BLOOD Lipase-12
___ 06:17PM BLOOD Albumin-4.2
___ 07:22AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.9

___ 07:55AM BLOOD WBC-6.3 RBC-3.75* Hgb-11.1* Hct-32.7* 
MCV-87 MCH-29.6 MCHC-33.9 RDW-13.3 RDWSD-42.4 Plt ___
___ 07:40AM BLOOD WBC-6.7 RBC-3.84* Hgb-11.1* Hct-32.8* 
MCV-85 MCH-28.9 MCHC-33.8 RDW-13.2 RDWSD-41.1 Plt ___
___ 02:27AM BLOOD WBC-7.7 RBC-3.90 Hgb-11.1* Hct-33.2* 
MCV-85 MCH-28.5 MCHC-33.4 RDW-13.2 RDWSD-41.6 Plt ___
___ 07:40AM BLOOD Neuts-45.0 ___ Monos-9.0 Eos-4.3 
Baso-0.3 Im ___ AbsNeut-3.01 AbsLymp-2.75 AbsMono-0.60 
AbsEos-0.29 AbsBaso-0.02
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD ___ PTT-25.6 ___
___ 03:35PM BLOOD Parst S-NEGATIVE FOR INTRACELLULUAR AND 
EXTRACELLULAR PARASITS
___ 07:55AM BLOOD Glucose-97 UreaN-10 Creat-0.6 Na-142 
K-4.0 Cl-104 HCO3-28 AnGap-10
___ 07:55AM BLOOD ALT-235* AST-99* LD(LDH)-243 AlkPhos-79 
TotBili-0.4
___ 07:55AM BLOOD Calcium-8.6 Phos-3.9 Mg-2.1

RUQ US
IMPRESSION: 
Normal abdominal ultrasound.

 
Brief Hospital Course:
ASSESSMENT & PLAN: 
==================
___ F with PMHx anxiety and depression, recently treated for 
UTI with ___ and Bactrim, who presents with flu-like 
symptoms and 1 day of progressive, diffuse, pruritic rash with 
thrombocytopenia and Transaminitis initially concerning for 
DRESS, but less likely after derm evaluation/biopsy. 
Self-resolving symptoms off steroids, likely related to other 
causes of acute hepatitis including viral vs parasitic. 

ACUTE ISSUES: 
=============== 
#acute hepatitis 
#Thrombocytopenia
#Anemia
Patient presenting with flu-like symptoms and whole-body rash 
beginning about 1 week after starting Bactrim. Labs notable for 
transaminitis, thrombocytopenia, and elevated INR. Differential 
diagnosis included DRESS, morbilliform drug rash (which can also 
be associated with fevers) infectious mononucleosis, tick ___ 
illness, acute HIV, acute viral infection and autoimmune 
hepatitis. Prednisone was started for possible DRESS syndrome 
however after 2 doses were discontinued as DRESS was deemed less 
likely due to a risk assessment model, skin biopsy pathology, 
and per recommendations from dermatology. Topical ointments were 
used to address patient's pruritus. The patient's LFTs were 
trended during her hospital course with a peak AST of 244 and 
ALT of 302 with an LDH of 477 which all down trended prior to 
discharge. On ___ on the patient developed significant 
abdominal and chest wall pain that was pleuritic in nature. 
Chest x-ray and EKG did not demonstrate any signs of acute 
infection or pericarditis. The patient's abdominal pain was 
mostly localized to the right upper quadrant and epigastrium and 
left upper quadrant; there were no peritoneal signs. Right upper 
quadrant ultrasound was negative for any hepatic cysts or 
obstructive processes. The patient's pain was treated with 
oxycodone and her pain subsequently resolved. On ___ the 
patient's rash improved significantly and her pain decreased. 
Bactrim was added to allergy list. Heme/onc smear revealed 
reactive lymphocytes, RBC smear revealed occaisional 
schistocytes but had low retics, parasite smear x 2 were 
negative, ferritin was 276, AMA negative, ___ negative, HIV 
negative, Smooth muscle Ab negative, Heb B immune, HCV negative, 
monospot negative.

CHRONIC ISSUES: 
=============== 
#UTI
Has completed 7 day course of Bactrim for UTI. UA without 
evidence of infection on admission. 

#Depression: 
Continue home escitalopram

#ADHD:
Continue home Adderall PRN

Transitional Issues
=============================
[] Will need punch biopsy stitch removal in 2 weeks
[] Recommend checking TSH in 6 weeks for late onset autoimmune 
hypothyroidism 
[] Repeat labs on ___, please ensure LFTs downtrending and 
CBC normalized
[] Adderall held at discharge given liver injury, consider 
re-starting after labs on ___
[] The following laboratory studies will need follow up:
- HHV ___
- babesia PCR
- anaplasma PCR
- CMV
- RPR w/ prozone
- Parvovirus B19
- The last of 3 parasite smears

Medications Added
========================
-Betamethasone Dipro 0.05% Oint 1 Appl TP BID Duration: 2 Weeks 
-Lidocaine 5% Patch 1 PTCH TD QPM 
-Sarna Lotion 1 Appl TP QID:PRN itch 
-Ranitidine 75 mg PO/NG DAILY 
-OxyCODONE (Immediate Release) 5 mg PO/NG Q8H:PRN 

Medications Held
========================
-Amphetamine-Dextroamphetamine 5 mg PO BID:PRN inattention 

Cr: 0.6 
Code: FULL 
Contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Amphetamine-Dextroamphetamine 5 mg PO BID:PRN inattention 

 
Discharge Medications:
1.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID Duration: 2 
Weeks 
RX *betamethasone dipropionate 0.05 % Apply TP twice a day 
Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth QH8:PRN Disp #*6 Tablet 
Refills:*0 
3.  Ranitidine 75 mg PO DAILY 
RX *ranitidine HCl [Heartburn Relief (ranitidine)] 75 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
4.  Sarna Lotion 1 Appl TP QID:PRN itch 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % 1 Appl TP 
QID:PRN Refills:*0 
5.  Escitalopram Oxalate 10 mg PO DAILY  
6. HELD- Amphetamine-Dextroamphetamine 5 mg PO BID:PRN 
inattention  This medication was held. Do not restart 
Amphetamine-Dextroamphetamine until your doctor checks your 
liver function
7.Outpatient Lab Work
573.3 Hepatitis, unspecified
___, MD 

CBC with dif, Chem-10, LFTs, Coags

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
==================
Acute hepatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
-You were in the hospital due to a rash that covered your body 
and abdominal pain. 

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- You were seen by internal medicine, dermatology and infectious 
disease who ordered laboratory tests that showed abnormal liver 
and blood markers. Tests were sent to assess the cause of these 
abnormalities.  
- You improved considerably and were felt well enough to leave 
the hospital 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments. 
- We recommend seeing your primary care physician to discuss 
your medications within the next 2 weeks. 

We wish you the best! 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___